US07138432B1
To a solution of 52.75 g (0.265 mol) of (3-chloro-propoxy)-benzene in 100 ml of CH2Cl2, a solution of 19.4 ml (0.292 mol) of chlorosulfonic acid in 100 ml of CH2Cl2 is added dropwise at 0–5° C. under N2 atmosphere. The mixture is allowed to warm to ambient temperature and stirred for 2 hours. To the mixture, 29.6 ml (0.345 mol) of oxalyl chloride and 4 ml (0.052 mol) of DMF are added dropwise at r.t. and the mixture is stirred for 18 h at r.t. The reaction mixture is poured into ice-water, extracted with CH2Cl2. The combined extracts are dried over MgSO4 and concentrated under reduced pressure to give 58.5 g of 4-(3-chloropropoxy) benzenesulfonyl chloride; NMR(CDCl3): 2.26–2.36 (m, 2H), 3.76 (t, 2H, J=6.04 Hz), 4.24 (t, 2H, J=6.04 Hz), 7.06 (d, 2H, J=9.08 Hz), 7.98 (d, 2H, J=9.08 Hz).

reactant | (3-chloro-propoxy)-benzene | 0.265 mol, 52.75 g | ClCCCOC1=CC=CC=C1 | C9H11ClO
reactant | chlorosulfonic acid | 0.292 mol, 19.4 ml | ClS(=O)(=O)O | ClHO3S
reactant | oxalyl chloride | 0.345 mol, 29.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.052 mol, 4 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-chloropropoxy) benzenesulfonyl chloride | 58.5 g | ClCCCOC1=CC=C(C=C1)S(=O)(=O)Cl | C9H10Cl2O3S
